US06727264B1
N-(3-{1-[3-(4-CHLOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-chloro-4-(3-chloropropoxy)benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: 1H NMR (400 MHz, CDCl3) δ 7.71 (dd, 1H, J=3.2, 5.7 Hz), 7.53 (dd, 1H, J=3.2, 5.7 Hz), 7.50 (m, 1H), 7.31 (m, 1H), 7.24-7.20 (m, 2H), 6.94 (d, 1H, J=7.9 Hz), 6.85-6.82 (m, 2H), 4.00 (t, 2H, J=6.1 Hz), 3.07 (d, 2H, J=10.9 Hz), 2.55 (m, 3H), 2.50 (sept, 1H, J=6.2 Hz), 2.08 (dt, 2H, J=3.1, 10.9 Hz), 2.00 (m, 2H), 1.83 (m, 3H), 1.69 (qt, 1H, J=6.2 Hz), 1.24 (d, 6H, J=6.8 Hz); Anal. Calcd for C24H31ClN2O2+HCl: C, 63.8; H, 7.09; N, 6.21. Found: C, 63.3; H, 7.04; N, 6.27; ESMS m/e: 415.2 (M+H)+.

reactant | 1-chloro-4-(3-chloropropoxy)benzene | ClC1=CC=C(C=C1)OCCCCl | C9H10Cl2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(4-CHLOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(OCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C1 | C24H31ClN2O2
